US08865712B2
d) 2-(2-Bromo-pyridin-4-yl)-3-hydroxy-2-hydroxymethyl-propionic acid ethyl ester
To an ice cooled stirred mixture of (2-bromo-pyridin-4-yl)-acetic acid ethyl ester (40.0 g, 163.93 mmol) and paraformaldehyde (9.84 g, 327.8 mmol) in dry DCM was added 1,8-diazabicyclo[5.4.0]undec-7-ene (1.49 g, 1.49 ml, 9.83 mmol) and stirred for 2 h. Reaction mixture was treated with (1R)-(−)-10-camphor sulphonic acid (2.283 g, 9.83 mmol) at 0° C. and the organic layer was washed with brine and dried over anhydrous Na2SO4. Concentration of organic layer afforded gummy oily material. The crude compound was purified over triethyl amine treated silicagel using 5-8% methanol in DCM as eluent furnished title compound as a brown liquid. Yield=20.0 g (40%). TLC (30% ethyl acetate in hexane) Rf=0.06; LCMS: RtH7=0.191; [M+1]+=303.9 and 305.8; HPLC RtH9=6.019 min (43%); 1H NMR (400 MHz, CDCl3): b 8.36-8.31 (m, 1H), 7.34-7.25 (m, 1H), 6.37-6.33 (m, 1H), 4.6 (d, 1H), 4.14-4.08 (m, 2H), 4.04-3.91 (m, 4H), 1.13 (t, 3H).

reactant | (2-bromo-pyridin-4-yl)-acetic acid ethyl ester | 163.93 mmol, 40.0 g | C(C)OC(CC1=CC(=NC=C1)Br)=O | C9H10BrNO2
reactant | paraformaldehyde | 327.8 mmol, 9.84 g | C=O | CH2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 9.83 mmol, 1.49 ml, 1.49 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (1R)-(−)-10-camphor sulphonic acid | 9.83 mmol, 2.283 g | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(2-Bromo-pyridin-4-yl)-3-hydroxy-2-hydroxymethyl-propionic acid ethyl ester | C(C)OC(C(CO)(CO)C1=CC(=NC=C1)Br)=O | C11H14BrNO4
